US05744488
b) 3-(3-Pyridyl)propanal-4-nitrophenylhydrazone
3-(3-Pyridyl)propanal (8.50 g) was added to a stirred suspension of 4-nitrophenylhydrazine (9.62 g) in ether 150 ml. After a minute an orange-brown oil formed which solidified on further stirring. The solid was filtered off to give the title compound pure enough for further reaction (14.05 g), m.p. 146°-147° C. (from ethyl acetate/methanol). Found: C,62.12; H,5.02; N,20.36. C14H14 N4O2 requires: C,62.21; H,5.22; N,20.73%.

reactant | 3-(3-Pyridyl)propanal | 8.50 g | N1=CC(=CC=C1)CCC=O | C8H9NO
reactant | 4-nitrophenylhydrazine | 9.62 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
solvent | ether | 150 ml | CCOCC | C4H10O
product | 3-(3-Pyridyl)propanal-4-nitrophenylhydrazone | [N+](=O)([O-])C1=CC=C(C=C1)NN=CCCC=1C=NC=CC1 | C14H14N4O2
